Ciruito Mallas
*------------------------------------
*Circuitry
*------------------------------------
*Fuente
VS	in	0	{param_vin}
*Resistencias
R1	in	out	{param_r1}
R2	out	0	{param_r2}
*R3	out	0	{param_r3}
*------------------------------------
*Parameters
.param  param_vin 5 ;user input
.param	param_vout_target 2; user input
.param	param_r1	1k
.param	param_r2	1k ; Fixed value
*.param param_r3	10k
*------------------------------------
*Internal variables
VS2 calc_r1 0 {param_r2*(param_vin-param_vout_target)/param_vout_target}

*------------------------------------
*Sweep ->Barrido
*------------------------------------
*.step param param_r2 list 10k 20k
*.step param param_r2 1k 20k 3k
*.step param param_r2 list 1k 20k 3k
.step param param_vin 2.001 10 1
*------------------------------------
*.step param param_r1 1k 20k 3k
*.step param param_r1 list 1k 20k 3k
*------------------------------------
*ANALYSIS
*Tran
.step param param_vin list 1 5 10
.Tran 500us
*.op
*
*Resultados
* [ltz] removed: .Plot
* [ltz] removed: .PROBE
.END
